US08334301B2
1-[4-(2-fluorophenyl)-5-(phenylthio)-1,3-thiazol-2-yl]methanamine
To a solution of 2-{[4-(2-fluorophenyl)-5-(phenylthio)-1,3-thiazol-2-yl]methyl}-1H-isoindole-1,3(2H)-dione (345 mg) in ethanol (5 mL) was added hydrazine monohydrate (0.05 mL) and the mixture was stirred at 70° C. for 3 hr. The reaction mixture was cooled to room temperature, saturated aqueous sodium hydrogen carbonate solution was added, and the mixture was extracted with ethyl acetate. The extract was washed with saturated aqueous sodium hydrogen carbonate solution, water and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure to give the title compound as a yellow oil (yield 209 mg, yield 86%).

reactant | 2-{[4-(2-fluorophenyl)-5-(phenylthio)-1,3-thiazol-2-yl]methyl}-1H-isoindole-1,3(2H)-dione | 345 mg | FC1=C(C=CC=C1)C=1N=C(SC1SC1=CC=CC=C1)CN1C(C2=CC=CC=C2C1=O)=O | C24H15FN2O2S2
reactant | hydrazine monohydrate | 0.05 mL | O.NN
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 1-[4-(2-fluorophenyl)-5-(phenylthio)-1,3-thiazol-2-yl]methanamine | yield 209 mg, yield 86% | FC1=C(C=CC=C1)C=1N=C(SC1SC1=CC=CC=C1)CN | C16H13FN2S2
